US07700638B2
7-(3-Furyl)-1-phenyl-5-trifluoromethylbenzimidazole
A mixture of 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (0.5 g, 1.25 mmol), 3-furane boronic acid (0.2 g, 1.87 mmol), 1,3-propanediol (0.45 ml, 6.2 mmol), potassium carbonate (0.86 g, 6.2 mmol) and bis(triphenylphosphin)palladium dichloride (50 mg, 0.07 mmol) in a mixture of dimethoxyethane (10 ml) and water (15 ml) was stirred at reflux in a nitrogen atmosphere for 30 min. The cooled reaction mixture was partitioned between ethyl acetate and water and the organic layer was dried over magnesium sulphate and evaporated under reduced pressure. The residue was triturated in diethyl ether to afford the title product as an off-white solid (0.22 g, 54%) m/z, 329.1 (M+H)+.

reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 1.25 mmol, 0.5 g | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | 3-furane boronic acid | 1.87 mmol, 0.2 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | 1,3-propanediol | 6.2 mmol, 0.45 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 6.2 mmol, 0.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 15 ml | O | H2O
catalyst | bis(triphenylphosphin)palladium dichloride | 0.07 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(3-Furyl)-1-phenyl-5-trifluoromethylbenzimidazole | 0.22 g, 54% | O1C=C(C=C1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C18H11F3N2O
